US07375113B2
To a solution of 4-[ (E)-2-phenylvinyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (50 mg) in tetrahydrofuran (4 mL) was added 10% palladium-carbon powder (25 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (50 mg) This material was dissolved in methanol (4 mL). To the solution was added sodium methoxide (28% methanol solution, 0.065 mL), and the mixture was stirred at 50° C. overnight. To the reaction mixture was added acetic acid (0.04 mL), and the resulting mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=5/1) to give the title compound (21 mg).

reactant | 4-[ (E)-2-phenylvinyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 50 mg | C1(=CC=CC=C1)/C=C/C1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C41H54N2O10
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 25 mg | [C].[Pd]
product | 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 50 mg | C1(=CC=CC=C1)CCC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C41H56N2O10
